US07091198B1
7-Benzyl-1-oxa-4,7-diazaspiro[5.4]decane
85.0 g (340 mmol) of 1-benzyl-3-hydroxy-3-(2-hydroxyethylaminomethyl)-pyrrolidine are dissolved in a mixture of 280 ml of concentrated sulfuric acid and 140 ml of water and heated at 180° C. overnight. The mixture is made alkaline with 45% strength sodium hydroxide solution, precipitated salts are dissolved in water, and the solution is extracted five times with 200 ml of chloroform each time. The organic phases are dried over potassium carbonate, the desiccant is removed, and the solution is concentrated. The residue is distilled under high vacuum. 60.0 g (76% of theory) of the product are obtained.

reactant | 1-benzyl-3-hydroxy-3-(2-hydroxyethylaminomethyl)-pyrrolidine | 340 mmol, 85.0 g | C(C1=CC=CC=C1)N1CC(CC1)(CNCCO)O | C14H22N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 280 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 140 ml | O | H2O
product | 7-Benzyl-1-oxa-4,7-diazaspiro[5.4]decane | C(C1=CC=CC=C1)N1C2(CNCCO2)CCC1 | C14H20N2O
